US06541505B1
4-(2-[t-butyldiphenylsilyloxy]-pyrimidin-5-yl)-benzaldehyde dimethyl ketal.
To a cooled (−78° C.) solution of 4-bromo-benzaldehyde dimethyl ketal (2.31 g 10 mmol) in THF (30 mL) is added, dropwise, n-butyl lithium (4.4 mL, 2.5 M in hexanes). On complete addition, the reaction mixture is stirred for 5 min then ZnCl2 solution (20 mL, 0.5M in THF) is added. The cold bath is removed and stirring continued for 5 min. then a solution comprising of 5-bromo-(2-[t-butyldiphenylsilyloxy]-pyrimidine (4.13 g, 10 mmol) and (Ph3P)4Pd (1.1 g, 1 mmol) in THF (20 mL) is added. This mixture is warmewd to 60° C. and stirred at this temperature for 2 h. The resulting solution is cooled to room temperature, diluted with ether, washed, sequentially, with 5% aqueous ammonia solution, water and brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (eluting with 10% ethyl acetate, 10% dichloromethane in hexanes) to give 2.28 g of the title compound as an oil. 1H NMR (CDCl3) δ 1.18 (s, 9H), 3.35 (s, 6H), 5.44 (s, 1H), 7.38 (m, 6H), 7.44 (d, J=8 Hz, 2H), 7.53 (d, J=8 Hz, 2H), 7.8 (m, 4H), 8.59 (s, 2H).

reactant | 4-bromo-benzaldehyde dimethyl ketal | 10 mmol, 2.31 g | COC(C1=CC=C(C=C1)Br)OC | C9H11BrO2
reactant | n-butyl lithium | 2.5 M, 4.4 mL | C(CCC)[Li]
reactant | 2-[t-butyldiphenylsilyloxy]-pyrimidine | 10 mmol, 4.13 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=NC=CC=N1 | C20H22N2OSi
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | ZnCl2 | 0.5M, 20 mL | [Cl-].[Cl-].[Zn+2]
catalyst | (Ph3P)4Pd | 1 mmol, 1.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-[t-butyldiphenylsilyloxy]-pyrimidin-5-yl)-benzaldehyde dimethyl ketal | 2.28 g | COC(C1=CC=C(C=C1)C=1C=NC(=NC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OC | C29H32N2O3Si
